US05177075
5-(Acetyloxy)-3,4-dihydro-1(2H)-isoquinolinone
A mixture of 2.0 g (12.3 mmol) of 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone, 2.0 g (52 mmol) of K2CO3 and 0.75 g of acetic anhydride in 20 ml of DMF was stirred at room temperature for 2.5 days. The mixture was then warmed to 70°-80° and an additional 1.5 g of acetic anhydride was added and stirring was continued for five hours. The reaction was poured into 250 ml of water and the resulting solid was collected, washed with water, and air dried. It was recrystallized from EtOH and then chromatographed (SiO2, 9:1 methylene chloride/MeOH) to give 0.72 g (29%) of product; mp 189°-193°.

reactant | 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone | 12.3 mmol, 2.0 g | OC1=C2CCNC(C2=CC=C1)=O | C9H9NO2
reactant | K2CO3 | 52 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetic anhydride | 0.75 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 1.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 250 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-(Acetyloxy)-3,4-dihydro-1(2H)-isoquinolinone | 0.72 g, 29% | C(C)(=O)OC1=C2CCNC(C2=CC=C1)=O | C11H11NO3
